US04187295
(b) Z-Trp-Ala-Ser-Gly-L-Asn-ol
2.9 ml of 5.6 N HCl in dioxan and 0.67 ml of tert. butyl nitrite are added at -20° to a solution of 3.2 g of Z-Trp-Ala-Ser-Gly-NHNH2 in 50 ml of DMF. After standing 15 minutes at -20° 1.89 of L-Asparaginol hydrochloric and 2.5 ml of triethylamine are added. After standing for 15 hours at room temperature the reaction mixture is considerably reduced in volume, diluted with ethyl acetate and washed with dilute aqueous hydrochloride acid and with water. The title compound precipitates from the concentrated solution.

reactant | HCl | 5.6 N, 2.9 ml | Cl | ClH
reactant | Z-Trp-Ala-Ser-Gly-NHNH2 | 3.2 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](C)C(=O)N[C@@H](CO)C(=O)NCC(=O)NN)C(=O)OCC1=CC=CC=C1 | C27H33N7O7
reactant | L-Asparaginol | N[C@@H](CC(N)=O)CO | C4H10N2O2
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | tert. butyl nitrite | 0.67 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-Trp-Ala-Ser-Gly-L-Asn-ol | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](C)C(=O)N[C@@H](CO)C(=O)NCC(=O)N[C@@H](CC(N)=O)CO)C(=O)OCC1=CC=CC=C1 | C31H39N7O9
